US08895547B2
1-(4-Benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide
A solution of 3.65 g of N-[2,4-dimethoxybenzyl]-1-(4-benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide in 20 ml of dichloromethane was admixed with 4.00 ml of trifluoroacetic acid and stirred at room temperature for 20 minutes. The conversion was checked by LCMS. Since it was incomplete, another 2.00 ml of trifluoroacetic acid were added and the mixture was stirred for a further 2 hours. The reaction solution was admixed with 20 ml of water and neutralized with saturated aqueous sodium hydrogencarbonate solution. The precipitate was filtered off with suction through a glass frit, washed with dichloromethane and water and dried in a desiccator over P2O5. This gave the product (1.95 g) with a molecular weight of 335.4 g/mol (C17H21NO4S).

reactant | N-[2,4-dimethoxybenzyl]-1-(4-benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 3.65 g | COC1=C(CNS(=O)(=O)C(C(C)(C)O)C2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC(=C1)OC | C26H31NO6S
reactant | trifluoroacetic acid | 4.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 2.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 20 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-Benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 1.95 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C)(C)O)S(=O)(=O)N | C17H21NO4S
